### PR TITLE
Draft PR for Lemma 10.1.2

### PR DESCRIPTION
**Pull request by JasperMS**
This draft PR contains a first stab at lemma 10.1.2 from the blueprint. There are still some sorries left.

I will follow up on Zulip to discuss more; link to thread will follow.

This is my first PR trying to contribute to a Lean project, so bear with me while I figure things out. Please feel free to liberally improve/correct/suggest/explain/whatever. I'm here to learn, and while this lemma has been a journey, it should only mark the beginning.

Remaining sorries:
- [ ] L122 `czoperator_welldefined`: I am not sure if this is already proven somewhere
- [ ] L396 `Measurable (vol x)`: Again may already be proven (though `vol` was very recently added in favour of `Real.vol`)
- [ ] L404 `rw_dom`: Some set work on proving a ball is a union of annuli
- [ ] L535 `ContinuousSMul ℝ≥0∞ ℝ≥0∞`: I feel this should be an oversight that is easily fixed somewhere
- [ ] L570 `Summable`: It's a geometric series, but I didn't know how to approach. May be able to put this in `ℝ≥0∞` to use `ENNReal.summable`

I have been reluctant to change other files since I am new to Lean and associated etiquette. Here are some other suggestions/ideas/observations:
- The use of ENorm, `vol`, and constants in `ℝ≥0` made my life much easier so I am happy with that.
- L342 `laverage_le_globalMaximalFunction` worked well, but it uses `‖ _ ‖₊` instead of `‖ _ ‖ₑ`
- I used `mul_le_mul` a lot but it seems that in NNReal/ENNReal it can be simplified to avoid `case c0 | b0` (e.g. L349 is typical)
- It was a pain to prove measurability of the integrands, although it was a 'simple' composition
- L132 I made `setIntegral_union_2` because I struggled a lot to split an integral using `setIntegral_union` because of the IntegrableOn conditions on the parts instead of the whole
- Am I adding too many intermediate steps into the context? Does this affect performance?
- I am not 100% sure where the assumptions on `g` are actually used (and which). Is it for `czoperator_welldefined`?

Overall I have the feeling, based on the amount of work and the number of intermediate steps needed, that it might be wise to have a discussion on approach (e.g. which general lemmas) for chapter 10 before distributing the work further to individual contributors. And a word of caution that the blueprintś

### CODE REVIEW

**Comment by fpvandoorn** [comment]
Thanks! It will take me a while to look at the code in detail, but here some comments already.

> Remaining sorries:
> 
> * [ ]  L122 `czoperator_welldefined`: I am not sure if this is already proven somewhere

Probably not, but I believe that `K` is bounded on this region. The preferred way is to write the conditions on `g` is `(hg : MemLp g ∞ volume))` (not entirely equivalent to what you wrote).


> * [ ]  L396 `Measurable (vol x)`: Again may already be proven (though `vol` was very recently added in favour of `Real.vol`)

No. There should be a general metric-space `measurable_measure_ball` (which doesn't exist yet) which states that `\mu (ball x r)` is measurable in both `x` and `r`. Not sure what the best way to prove this is, but you can consider the set `{(x, r, z) | z \in ball x r}` which I believe is open and therefore measurable and then apply [measurable_measure_prodMk_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Prod.html#measurable_measure_prodMk_left)

> * [ ]  L404 `rw_dom`: Some set work on proving a ball is a union of annuli
> 
> * [ ]  L535 `ContinuousSMul ℝ≥0∞ ℝ≥0∞`: I feel this should be an oversight that is easily fixed somewhere

I believe that `(∞ • ·)` is not continuous. We have [ENNReal.continuous_const_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal/Lemmas.html#ENNReal.continuous_const_mul).

> * [ ]  L570 `Summable`: It's a geometric series, but I didn't know how to approach. May be able to put this in `ℝ≥0∞` to use `ENNReal.summable`

[summable_geometric_of_lt_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecificLimits/Basic.html#summable_geometric_of_lt_one) if it is in `ℝ`.

> I have been reluctant to change other files since I am new to Lean and associated etiquette. Here are some other suggestions/ideas/observations:

Feel free to modify if you know it's better. There is no code ownership or anything like that, and it's easy to make suboptimal design decisions. Of course, modifying means fixing all breakage, so also feel free to just add a `todo` note.

> * The use of ENorm, `vol`, and constants in `ℝ≥0` made my life much easier so I am happy with that.

🎉 

> * L342 `laverage_le_globalMaximalFunction` worked well, but it uses `‖ _ ‖₊` instead of `‖ _ ‖ₑ`

Feel free to change this.

> * I used `mul_le_mul` a lot but it seems that in NNReal/ENNReal it can be simplified to avoid `case c0 | b0` (e.g. L349 is typical)

I believe this was answered on Zulip

> * It was a pain to prove measurability of the integrands, although it was a 'simple' composition

In case it's really a simple composition of things you know are measurable (and things like `+`, `*` and other standard functions), then you can tag the measurability lemmas for individual functions with `@[fun_prop]` and use the `fun_prop` tactic to prove it (search in Mathlib for `fun_prop` for some uses).

> * L132 I made `setIntegral_union_2` because I struggled a lot to split an integral using `setIntegral_union` because of the IntegrableOn conditions on the parts instead of the whole

Maybe that makes sense as a variant.

> * Am I adding too many intermediate steps into the context? Does this affect performance?

Some tactics like `linarith` do some preprocessing with all hypotheses, but most tactics don't look at the context unless you tell it to. So generally not. If you want, you can `clear` hypotheses you don't need anymore.

> * I am not 100% sure where the assumptions on `g` are actually used (and which). Is it for `czoperator_welldefined`?

It's possible that a lemma formulated with too many assumptions. We can get rid of them after the proof is sorry-free.
 
> Overall I have the feeling, based on the amount of work and the number of intermediate steps needed, that it might be wise to have a discussion on approach (e.g. which general lemmas) for chapter 10 before distributing the work further to individual contributors. And a word of caution that the blueprint's level of detail is certainly very different from other chapters!

I think chapters 4-5 in particular were very detailed; chapter 7 also has some proofs that are a bit less detailed. I haven't read the proofs in chapter 10 in enough detail to know what general lemmas there are that multiple results in chapter 10 share. So I think it's fine to for people to claim some tasks, and I'll advice them to look at this PR if they need a property that might have already been proven here.

**Comment by JasperMS** [comment]
> > * [ ]   L122 `czoperator_welldefined`: I am not sure if this is already proven somewhere
> 
> Probably not, but I believe that `K` is bounded on this region. The preferred way is to write the conditions on `g` is `(hg : MemLp g ∞ volume))` (not entirely equivalent to what you wrote).

The current one is the condition I copied from the 10.1.2 lemma statement, and which is also used everywhere else. Should I change it everywhere in Chapter 10? Btw the blueprint says that `g` is bounded (also in Thm 10.0.1). I guess $L^\infty$ is a.e. bounded but it should not be an issue right?

**Comment by fpvandoorn** [comment]
> > > * [ ]    L122 `czoperator_welldefined`: I am not sure if this is already proven somewhere
> > 
> > 
> > Probably not, but I believe that `K` is bounded on this region. The preferred way is to write the conditions on `g` is `(hg : MemLp g ∞ volume))` (not entirely equivalent to what you wrote).
> 
> The current one is the condition I copied from the 10.1.2 lemma statement, and which is also used everywhere else. Should I change it everywhere in Chapter 10? Btw the blueprint says that `g` is bounded (also in Thm 10.0.1). I guess L ∞ is a.e. bounded but it should not be an issue right?

Oh, good point. I did state that in a non-standard way 😄 Please change it.
Yes, the distinction between bounded and a.e. bounded should not matter (maybe we have to use the essential supremum instead of the supremum somewhere).

One potential risk is that if you start modifying other lemmas *and* this PR takes a while to complete, that you get merge conflicts. If you want, you can separate out modifications to existing code as separate PRs, and I'll merge those quickly.

File: Carleson/ToMathlib/BoundedFiniteSupport.lean [hunk 1]
```diff
@@ -15,10 +15,18 @@ variable {f : X → ℂ}
 /-- Definition to avoid repeating ourselves.
 Blueprint states: *bounded measurable function $g$ on $X$ supported on a set of finite measure*.
 Slightly weaker than `BoundedCompactSupport`.
+Measurable was added because many integral relations require Measurable instead of AEMeasurable
 TODO probably want this as a `structure` instead of an explicit conjunction. -/
 def BoundedFiniteSupport (f : X → ℂ) : Prop :=
-  MemLp f ∞ volume ∧ volume (support f) < ∞
+  MemLp f ∞ volume ∧ volume (support f) < ∞ ∧ Measurable f
```
Comment (JasperMS) [inline Carleson/ToMathlib/BoundedFiniteSupport.lean:21]: In the end, many integral identities/inequalities require `Measurable f` instead of `AEMeasurable f`. Therefore `Measurable f` was reinstated to make life easier.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 2]
```diff
@@ -44,16 +45,57 @@ lemma geom_estimate_constant_le_two :
...
+  swap
+  . exact le_of_lt (two_pow_neg_inv_lt_one hx)
+
+  apply hasSum_geometric_of_lt_one
+  . positivity
+  . exact two_pow_neg_inv_lt_one hx
+
+/-- Lemma 10.1.1 -/
+theorem geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
+    tsum (fun (n : ℕ) ↦ (2 : ℝ≥0∞) ^ (-n / x)) ≤ 2 ^ x := by
```
Comment (JasperMS) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:75]: FYI this was brought to `ENNReal`. I checked the other application in the dependency graph (estimate F set) and it also involves a similar estimate of `lintegral`s (which naturally lives in ENNReal).

File: Carleson/ToMathlib/BoundedFiniteSupport.lean (hunk 1 above)
Comment (fpvandoorn) [reply Carleson/ToMathlib/BoundedFiniteSupport.lean:21]: I don't think this is necessary. All Mathlib lemmas should have corresponding `AEMeasurable` results.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 3]
```diff
@@ -102,23 +141,535 @@ theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
...
+      ≤ 2 ^ (a ^ 3 + a) * globalMaximalFunction volume 1 g x := by
+    simp only [enorm_mul]
+
+    trans ∫⁻ (y : X) in bxrc ∩ bx2r, C_K ↑a / volume (ball x r) * ‖g y‖ₑ
+    . apply setLIntegral_mono
+      . apply Measurable.comp
+        . apply measurable_const_mul
+        . apply Measurable.comp
+          exact MeasureTheory.measurable_enorm
+          exact hg.measurable
```
Comment (fpvandoorn) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:340]:
```suggestion
    . apply setLIntegral_mono_ae _ (.of_forall _)
      . apply aemeasurable_const.mul
        exact hg.aemeasurable.restrict.enorm
```
This is how you can do this for ae-measurable functions.

In fact, we can teach the `fun_prop` tactic to do this (`fun_prop` is used to automatically prove properties of functions, using "structural" lemmas of the function).

The code 
```lean
    . apply setLIntegral_mono_ae (by fun_prop) (.of_forall _)
```
works if you make the following modifications:
* add `@[fun_prop]` to `BoundedFiniteSupport` and `BoundedFiniteSupport.aemeasurable`
* add the lemma 
```lean
@[fun_prop]
theorem aemeasurable_restrict (bfs : BoundedFiniteSupport f): AEMeasurable f (volume.restrict s) := 
  bfs.aemeasurable.restrict
```

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 4]
```diff
@@ -102,23 +141,535 @@ theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
...
+      intro x
+      trans x ∈ bxrc
+      . exact fun a ↦ mem_of_mem_inter_left a
+      apply pointwise_1
+
+    rw [lintegral_const_mul] -- LHS = 10.1.5
+    case hf => apply Measurable.enorm; exact hg.measurable
```
Comment (fpvandoorn) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:347]:
```suggestion
    rw [lintegral_const_mul'' _ hg.aemeasurable.restrict.enorm]
```

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean (hunk 3 above)
Comment (fpvandoorn) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean:340]: I made these changes to `BoundedFiniteSupport` in #265 (it doesn't break anything in this PR, as long as you discard your changes in `BoundedFiniteSupport`).

Comment (JasperMS) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean]: Thanks, PR was updated to reflect this (pushed my local intermediate state to make sure you see the latest stuff)

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 5]
```diff
@@ -102,23 +141,546 @@ theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
...
+  . exact MeasurableSet.compl measurableSet_ball
+  apply Measure.integrableOn_of_bounded
+  . apply ne_top_of_le_ne_top
+    . exact ne_of_lt hg.measure_support_lt
+    . apply measure_mono
+      trans support Kxg
+      . exact inter_subset_right
+      . exact support_mul_subset_right (K x) g
+  . exact mKxg.aestronglyMeasurable
+  . rw [MeasureTheory.ae_iff, Measure.restrict_apply_eq_zero']
```
Comment (JasperMS) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:198]: I am not entirely sure how this should be fixed now that `g` is only a.e. measurable. Help appreciated.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 6]
```diff
@@ -102,23 +141,549 @@ theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
...
+
+      apply le_trans (enorm_K_le_vol_inv x y)
+      apply ENNReal.div_le_div_left
+      apply measure_mono
+      apply ball_subset_ball
+      let hby := hy.left
+      rw [mem_compl_iff, ball, mem_setOf, not_lt, dist_comm] at hby
+      exact hby
+    . apply le_toNNReal_of_coe_le
+      . sorry -- have to refactor to a.e.
```
Comment (JasperMS) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:186]: This inequality holds only a.e., but I don't know how to work with a.e. properly, so I'm not sure how to approach this... Help appreciated!

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean (hunk 5 above)
Comment (JasperMS) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean:201]: Managed by using a suitable nullMeasurable alternative.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean (hunk 6 above)
Comment (JasperMS) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean:186]: Managed to relegate to `bdd_Kxg` which resolves this for now.

File: Carleson/ToMathlib/Misc.lean [hunk 7]
```diff
@@ -496,3 +496,24 @@ theorem prod_attach_insert {α β : Type*} {s : Finset α} {a : α} [DecidableEq
     ext
     simpa using h
   · simp [ha]
+
+theorem Nat.le_pow_self {n : ℕ} (hn : 2 ≤ n) (a : ℕ) : a ≤ n ^ a := by
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Misc.lean:500]: Searching in Loogle for `?a ≤ _ ^ ?a` and `?a < _ ^ ?a` gives [Nat.lt_pow_self](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Lemmas.html#Nat.lt_pow_self)

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 8]
```diff
@@ -44,16 +45,57 @@ lemma geom_estimate_constant_le_two :
     _ ≤ ((4 : ℝ) * (1 - 7 / 8))⁻¹ := by gcongr
     _ ≤ _ := by norm_num
 
-theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
-    tsum (fun (n : ℕ) ↦ (2 : ℝ) ^ (-n / x)) ≤ 2 ^ x := by
+lemma hasSum_geometric_series {x : ℝ} (hx : 4 ≤ x) :
+    HasSum (fun (n : ℕ) ↦ (2 : ℝ≥0) ^ (-n / x)) (1 - 2 ^ (-1 / x))⁻¹ := by
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean:49]: I expect that it is nicer to state this for Real instead of NNReal (easier proof, and that's actually nicer in the proof of Lemma 10.1.1)

[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean:49]: I recommend making the `have` a lemma: you're also using it in lemmas below.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 9]
```diff
@@ -102,23 +141,576 @@ theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
...
+But this version of setIntegral_union is easier to apply as it starts from the overall integral which
+is to be estimated.
+-/
+variable {α : Type*} [MeasurableSpace α]
+variable {f : α → ℂ } {s t : Set α} {μ : Measure α}
+
+theorem MeasureTheory.setIntegral_union_2 (hst : Disjoint s t) (ht : MeasurableSet t) (hfst : IntegrableOn f (s ∪ t) μ) :
+    ∫ x in s ∪ t, f x ∂μ = ∫ x in s, f x ∂μ + ∫ x in t, f x ∂μ := by
+  let hfs : IntegrableOn f s μ := IntegrableOn.left_of_union hfst
+  let hft : IntegrableOn f t μ := IntegrableOn.right_of_union hfst
```
Comment (fpvandoorn) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:231]:
```suggestion
  let hfs : IntegrableOn f s μ := hfst.left_of_union
  let hft : IntegrableOn f t μ := hfst.right_of_union
```
(of course, you can also make this proof a 1-liner)

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 10]
```diff
@@ -102,23 +141,576 @@ theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
...
+  exact setIntegral_union hst ht hfs hft
+/- End of somewhere else -/
 
 /-- The constant used in `estimate_x_shift`. -/
-irreducible_def C10_1_2 (a : ℕ) : ℝ≥0 := 2 ^ (a ^ 3 + 2 * a + 1)
+irreducible_def C10_1_2 (a : ℕ) : ℝ≥0 := 2 ^ (a ^ 3 + 2 * a + 2)
+-- exact estimate from proof: C_K * (defaultA + 2 * defaultA²) ≤ C10_1_2
 
 /-- Lemma 10.1.2 -/
 theorem estimate_x_shift (ha : 4 ≤ a)
```
Comment (fpvandoorn) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:240]: I didn't look at this proof carefully yet. It might be nice to split steps up into separate lemmas.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (JasperMS) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean]: Thanks for the golf and the `simp_rw` suggestion. I think this should stay in `NNReal` because it is used in `ENNReal.coe_tsum`.
Or otherwise I don't feel qualified to follow up on your suggestion.
Also the `have` is not actually used below, just similar but slightly different statements without immediate reusability (as far as I can tell).

As the proof of 10.1.1 is not mine, nor my current focus to improve it, I'll leave things as of the last commits (with the golf). Feel free to improve/refactor as appropriate.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 11]
```diff
@@ -44,16 +45,57 @@ lemma geom_estimate_constant_le_two :
...
+    rw [← ENNReal.coe_rpow_of_ne_zero]
+    case h.h => apply OfNat.ofNat_ne_zero
+  rw [← ENNReal.coe_tsum, ← ENNReal.coe_rpow_of_ne_zero, coe_le_coe]
+  case h => apply OfNat.ofNat_ne_zero
+  swap --Summable from coe_tsum first
+  . exact HasSum.summable (hasSum_geometric_series hx)
+
+  rw [HasSum.tsum_eq (hasSum_geometric_series hx)]
+
+  -- TODO the rest of this proof can surely be optimized
```
[the remark this answers is not in the document]
Comment (JasperMS) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean:69]: I put your suggestion in the code, but will not improve upon 10.1.1 in this PR. I only touched it to bring it to a usable form for 10.1.2.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 12]
```diff
@@ -102,23 +141,576 @@ theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
...
-  push_cast
-  exact real_geometric_series_estimate hx
+-- TODO move to ToMathlib, properly generalise
+theorem integrableOn_of_integrableOn_inter_support {f : X → ℂ} {μ : Measure X} {s : Set X}
+    (hs : MeasurableSet s) (hf : IntegrableOn f (s ∩ support f) μ) :
+    IntegrableOn f s μ := by
+  apply IntegrableOn.of_forall_diff_eq_zero hf hs
+  simp
+
+-- TODO move to sensible place
```
[the remark this answers is not in the document]
Comment (JasperMS) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean]: In the end I made a `Basic.lean` in the `TwoSidedCarleson` folder because I felt it would be polluting the `Defs.lean` too much.

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean (hunk 10 above)
Comment (JasperMS) [reply Carleson/TwoSidedCarleson/NontangentialOperator.lean:437]: I did some initial splitting, golfing, and cleaning up. I would be happy about a final review now.
(Oh, probably the build will fail because it's on old Mathlib and not up to date with `master`. Will fix that soon-ish.)

**Comment by fpvandoorn** [comment]
Thanks for this! I satisfied one new style linter myself, but the proofs look good. I didn't carefully go into the proofs to try to make them Mathlib-quality, but for the long proof, I don't think that is necessary.
